US07704995B2
To a solution of methyl 3-chloro-6-phenylpyrazine-2-carboxylate (0.13 g, 0.53 mmol) in tetrahydrofuran (3 mL) was added 0.65 mL of 2.0 N methylamine in THF (1.30 mmol). The reaction was heated in a sealed high-pressure test tube to 90-95° C. overnight. The reaction was cooled to room temperature and diluted with ethyl acetate (100 mL). The organic layer was washed 2.0 N aqueous hydrochloric acid (20 mL), saturated aqueous sodium bicarbonate (30 mL), and saturated aqueous sodium chloride (30 mL). The organic layer was dried over magnesium sulfate, filtered and concentrated at reduced pressure to afford a yellowish product. Trituration with methanol (2 mL) gave a solid, which was filtered and washed with ether to afford afford methyl 3-(methylamino)-6-phenylpyrazine-2-carboxylate (31 mg, 24%) as yellow solid: MS (EI) for C13H13N3O2: 244 (MH+). This intermediate ester was directly used in the next step.

reactant | methyl 3-chloro-6-phenylpyrazine-2-carboxylate | 0.53 mmol, 0.13 g | ClC=1C(=NC(=CN1)C1=CC=CC=C1)C(=O)OC | C12H9ClN2O2
reactant | methylamine | 2.0 N, 0.65 mL | CN | CH5N
reactant | methanol | 2 mL | CO | CH4O
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
solvent | THF | 1.30 mmol | C1CCOC1 | C4H8O
product | methyl 3-(methylamino)-6-phenylpyrazine-2-carboxylate | 31 mg, 24% | CNC=1C(=NC(=CN1)C1=CC=CC=C1)C(=O)OC | C13H13N3O2
